US07220759B2
In the same manner as in Example 20b (b) and (c) and using (R)-3-(2-ethoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide (1.22 g) and N,N-diethyl-3-chloro-2-methylbenzamide (1.13 g), (R)-5-chloro-3-[2-(2-ethoxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one hydrochloride (0.52 g) was obtained.

reactant | (R)-3-(2-ethoxymethylpyrrolidin-1-yl)-N-methoxy-N-methylpropanamide | 1.22 g | C(C)OC[C@@H]1N(CCC1)CCC(=O)N(C)OC | C12H24N2O3
reactant | N,N-diethyl-3-chloro-2-methylbenzamide | 1.13 g | C(C)N(C(C1=C(C(=CC=C1)Cl)C)=O)CC | C12H16ClNO
product | (R)-5-chloro-3-[2-(2-ethoxymethylpyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one hydrochloride | 0.52 g | Cl.ClC1=C2C=C(NC(C2=CC=C1)=O)CCN1[C@H](CCC1)COCC | InChI=1S/C18H23ClN2O2.ClH/c1-2-23-12-14-5-4-9-21(14)10-8-13-11-16-15(18(22)20-13)6-3-7-17(16)19;/h3,6-7,11,14H,2,4-5,8-10,12H2,1H3,(H,20,22);1H/t14-;/m1./s1
